US05252594
N-[2-(4-Chlorophenyl)-1-(1,2,4-triazol-1-yl)-2-hexyl]acetamide
To a stirred, cooled (0° C.) solution of 0.54 g (1.94 mmols) of [2-(4-chlorophenyl)-1-(1,2,4-triazol-1-yl)-2-hexylamine and 0.02 g (0.15 mmols) of N,N-dimethylaminopyridine in 10 mL of methylene chloride under nitrogen was added dropwise 0.50 mL (5.28 mmols) of acetic anhydride. After 5 days the reaction was quenched with the addition of methanol and the solvents were removed to give a white solid. The solid was dissolved in toluene which was removed under reduced pressure to remove any acetic acid. The resultant solid was recrystallized from chloroform to give 0.2 g (32%) of white crystals, melting point 178.5°-179° C.

reactant | 2-(4-chlorophenyl)-1-(1,2,4-triazol-1-yl)-2-hexylamine | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(CCCC)N | C14H19ClN4
reactant | acetic anhydride | 5.28 mmols, 0.50 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[2-(4-Chlorophenyl)-1-(1,2,4-triazol-1-yl)-2-hexyl]acetamide | 0.2 g, 32% | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(CCCC)NC(C)=O | C16H21ClN4O
